US07652049B2
Sodium hydride (60% dispersion in mineral oil, 14.7 mg, 0.368 mmol) was added to a stirred solution of (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-1,3-oxazolidin-2-one (57.7 mg, 0.184 mmol) in dry THF (2 mL) at room temperature. After 30 min a solution of 2′-(bromomethyl)-4-fluoro-5-isopropyl-2-methoxy-4′-(trifluoromethyl)biphenyl-3-ol (62.0 mg, 0.123 mmol) in dry THF (2 mL) was added by cannula and the reaction mixture was stirred overnight. Saturated NH4Cl (10 mL) was added and the mixture was extracted with EtOAc (3×20 mL). The combined extracts were dried (Na2SO4) and concentrated in vacuo to give the crude product. This was purified by flash chromatography (Si, 12×160 mm, 0-40% EtOAc in hexanes gradient) to afford (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-{[4′-fluoro-3′-hydroxy-5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}-4-methyl-1,3-oxazolidin-2-one. Rf=0.25 (20% EtOAc in hexanes). LCMS calc.=654.2; found=654.2 (M+1)+. 1H NMR (500 MHz, CDCl3, 1:1 mixture of atropisomers) δ 7.86 (m, 1H), 7.73-7.63 (m, 4H) 7.44 (m, 1H), 6.55 (d, J=7.6 Hz, 0.5H), 6.52 (d, J=7.7 Hz, 0.5H), 5.71 (br s, 1H), 5.60 (d, J=8.0 Hz, 0.5H), 5.54 (d, J=8.0 Hz, 0.5H), 4.87 (d, J=16.0 Hz, 0.5H), 4.72 (d, J=16.1 Hz, 0.5H), 4.23 (d, J=16.1 Hz, 0.5H), 3.98 (d, J=15.9 Hz, 0.5H), 3.93-3.85 (m, 0.5H), 3.77-3.71 (m, 0.5H), 3.51 (s, 1.5H), 3.47 (s, 1.5H), 3.25-3.17 (m, 1H), 1.26-1.18 (m, 6H), 0.58 (d, J=6.5 Hz, 1.5H), 0.38 (d, J=6.6 Hz, 1.5H).

reactant | Sodium hydride | 0.368 mmol, 14.7 mg | [H-].[Na+]
reactant | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-1,3-oxazolidin-2-one | 0.184 mmol, 57.7 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](NC(O1)=O)C)(F)F | C12H9F6NO2
reactant | 2′-(bromomethyl)-4-fluoro-5-isopropyl-2-methoxy-4′-(trifluoromethyl)biphenyl-3-ol | 0.123 mmol, 62.0 mg | BrCC1=C(C=CC(=C1)C(F)(F)F)C1=C(C(=C(C(=C1)C(C)C)F)O)OC | C18H17BrF4O2
reactant | NH4Cl | 10 mL | [NH4+].[Cl-]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-{[4′-fluoro-3′-hydroxy-5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}-4-methyl-1,3-oxazolidin-2-one | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)C1=C(C(=C(C(=C1)C(C)C)F)O)OC)C)(F)F | C30H25F10NO4
